US07750040B2
To a solution of (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-hydroxy-3,5-dimethyl-benzylamide (8.9 mg, 0.025 mmol) in isopropanol (1 mL) is added 2 N aq. NaOH (100 μL), NaI (1 mg, 0.007 mmol) and (S)-3-chloro-propane-1,2-diol (11.1 mg, 0.1 mmol). The reaction mixture is heated to 90° C. and shaken for 8 h before it is cooled to rt. Formic acid (0.2 mL) is added and the reaction mixture is separated by prep. HPLC to give (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-benzylamide (3.7 mg) as a colourless lyophilisate. LC-MS: tR=0.94 min, [M+1]+=430.27.

reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-hydroxy-3,5-dimethyl-benzylamide | 0.025 mmol, 8.9 mg | OC1=C(C=C(CNC(=O)C2=C3C[C@@H]4[C@H](C3=C(S2)C)C4(C)C)C=C1C)C | C21H25NO2S
reactant | NaOH | 2 N, 100 μL | [OH-].[Na+]
reactant | NaI | 0.007 mmol, 1 mg | [Na+].[I-]
reactant | (S)-3-chloro-propane-1,2-diol | 0.1 mmol, 11.1 mg | ClC[C@H](CO)O | C3H7ClO2
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
solvent | Formic acid | 0.2 mL | C(=O)O | CH2O2
product | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-benzylamide | 3.7 mg | O[C@H](COC1=C(C=C(CNC(=O)C2=C3C[C@@H]4[C@H](C3=C(S2)C)C4(C)C)C=C1C)C)CO | C24H31NO4S
